US09034866B2
Methyl 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate was reacted with (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one similarly to as described in General Procedure F with non-critical modifications to afford (R)-methyl 8-fluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate. Crude (R)-methyl 8-fluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate was to General Procedure M subjected to afford 26 mg (21%) of 8-fluoro-9-[2-[(3R)-3-hydroxy-1-methyl-2-oxo-pyrrolidin-3-yl]ethynyl]-4,5-dihydrothieno[3,2-d][1]benzoxepine-2-carboxamide.

reactant | Methyl 9-bromo-8-fluoro-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate | BrC1=CC2=C(OCCC3=C2SC(=C3)C(=O)OC)C=C1F | C14H10BrFO3S
reactant | (3R)-3-ethynyl-3-hydroxy-1-methyl-pyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | (R)-methyl 8-fluoro-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-4,5-dihydrobenzo[b]thieno[2,3-d]oxepine-2-carboxylate | FC=1C(=CC2=C(OCCC3=C2SC(=C3)C(=O)OC)C1)C#C[C@]1(C(N(CC1)C)=O)O | C21H18FNO5S
